US04551460
A mixture of 5.0 g of 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid, 5.2 g of 3-(3-pyridine)propylbromide hydrobromide, and 5.2 g of potassium carbonate in 200 ml of dimethylformamide was heated to a bath temperature of 70° C. for 45 minutes. The reaction mixture was partitioned between water (100 ml) and dichloromethane (100 ml) and the aqueous layer was extracted with 3×100 ml of dichloromethane. The combined extracts were washed with 100 ml portions of 10% sodium hydroxide and water, were dried over potassium carbonate and evaporated to 6.3 g of an oil which was purified by preparative liquid chromatography over silica gel eluting with 3:1 ethyl acetate-hexane. The major fraction contained 4.6 g of a orange oil which was crystallized from ethyl acetate-hexane to give 2.7 g (38%) of 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid 3-(3-pyridyl)propyl ester, mp 108°-109° C.

reactant | 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid | 5.0 g | CC(C)C=1C=C2C(N3C(=NC2=CC1)C=CC(=C3)C(=O)O)=O | C16H14N2O3
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylic acid 3-(3-pyridyl)propyl ester | 2.7 g, 38% | N1=CC(=CC=C1)CCCOC(=O)C=1C=CC2=NC3=CC=C(C=C3C(N2C1)=O)C(C)C | C24H23N3O3
